US06890947B2
1.23 g rac-2-propoxy-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-5-yl]-propionic acid ethyl ester were dissolved in 40 ml dioxane, then treated with 7.6 ml lithium hydroxide solution (1 molar in water) and stirred for 16 hours at ambient temperature. Extraction of the reaction mixture with H2O/HCl and dichloromethane, followed by drying of the organic phase with sodium sulfate and evaporation, gave 1.27 g crude product, which was purified by chromatography (silicagel, eluent: gradient of n-heptane/EtOAc) yield to 0.98 g rac-2-propoxy-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-5-yl]-propionic acid as a light yellow oil.

reactant | rac-2-propoxy-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-5-yl]-propionic acid ethyl ester | 1.23 g | C(C)OC(C(CC=1C=C2C=CN(C2=CC1)COCC[Si](C)(C)C)OCCC)=O | C22H35NO4Si
reactant | lithium hydroxide | 1 molar, 7.6 ml | [OH-].[Li+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | rac-2-propoxy-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-5-yl]-propionic acid | 0.98 g | C(CC)OC(C(=O)O)CC=1C=C2C=CN(C2=CC1)COCC[Si](C)(C)C | C20H31NO4Si
